US04386100
Sodium hydride (1.5 g., 50% w/w dispersion in mineral oil) was added continuously to a solution of spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (2.17 g.) in N,N-dimethylformamide (40 ml.) and water (20 ml.). The resultant mixture was stirred for 30 minutes and then a solution of 3,4-dichlorobenzyl chloride (1.95 g.) in tetrahydrofuran (5 ml.) was added dropwise during 10 minutes. The solution obtained was stirred at room temperature for two hours and then poured into water (150 ml.). The mixture was acidified with concentrated hydrochloric acid and then extracted with ether (2×100 ml.). The combined extracts were washed with water (3×100 ml.), then with saturated sodium chloride solution (100 ml.), dried (MgSO4) and evaporated. The residual solid was dissolved in chloroform and purified by chromatography on silica (25 g.) using an increasing concentration of ethyl acetate in cyclohexane as eluant. Evaporation of the ethyl acetate rich fractions gave 1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione identical with that obtained in Prep. 1.

reactant | Sodium hydride | 1.5 g | [H-].[Na+]
reactant | spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 2.17 g | N1C(C2(C3=CC=CC=C13)NC(NC2=O)=O)=O | C10H7N3O3
reactant | 3,4-dichlorobenzyl chloride | 1.95 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | ClC=1C=C(CN2C(C3(C4=CC=CC=C24)NC(NC3=O)=O)=O)C=CC1Cl | C17H11Cl2N3O3
